US07973078B2
300 mg of methyl (2R)-2-[3-(hydroxymethyl)phenoxy]propionate, 465 mg of di-tert-butyl iminodicarboxylate, and 543 mg of triphenylphosphine were dissolved in 3.00 mL of toluene, and 445 mg of diisopropyl azodicarboxylate was added thereto under ice-cooling, followed by stirring at room temperature overnight. The reaction liquid was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5 to 0:100) to obtain 584 mg of methyl (2R)-2-(3-{[bis(tert-butoxycarbonyl)amino]methyl}phenoxy)propionate.

reactant | methyl (2R)-2-[3-(hydroxymethyl)phenoxy]propionate | 300 mg | OCC=1C=C(O[C@@H](C(=O)OC)C)C=CC1 | C11H14O4
reactant | di-tert-butyl iminodicarboxylate | 465 mg | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 543 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 445 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 3.00 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (2R)-2-(3-{[bis(tert-butoxycarbonyl)amino]methyl}phenoxy)propionate | 584 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(O[C@@H](C(=O)OC)C)C=CC1 | C21H31NO7
